US09388149B2
A solution of 2.51 g (9.7 mmol, 1 eq) of 2-[azido-(2-methyltetrahydrofuran-2-yl)methyl]-5-methylfuran in 45 ml of ethanol was stirred at hydrogen atmospheric pressure in the presence of 323 mg (15% by weight) of palladium on carbon (Pd/C) at 10% for 16 hours. The reaction medium was filtered and the filtrate was evaporated. 1.82 g of (5-methylfuran-2-yl)(2-methyltetrahydrofuran-2-yl)methanamine were obtained. Yield=96%. TLC/SiO2: heptane/EtOAc (60/40), developing with KMnO4.

reactant | 2-[azido-(2-methyltetrahydrofuran-2-yl)methyl]-5-methylfuran | 9.7 mmol, 2.51 g, 1 eq | N(=[N+]=[N-])C(C=1OC(=CC1)C)C1(OCCC1)C | C11H15N3O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 45 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 323 mg | [Pd] | Pd
product | (5-methylfuran-2-yl)(2-methyltetrahydrofuran-2-yl)methanamine | 1.82 g, Yield=96% | CC1=CC=C(O1)C(N)C1(OCCC1)C | C11H17NO2
